US07135472B2
Step A: (S)-{1-[3-(Hydroxyimino-methyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester
To a solution of (s)-[1-(3-formyl-phenyl)-ethyl]-carbamic acid tert-butyl ester (1.5 g, 6 mmol) in ethanol (50 mL) were added hydroxylamine hydrochloride (833 mg, 12 mmol) triethylamine (2.5 mL, 18 mmol), the reaction mixture was heated at reflux for 18 h, and the reaction mixture was cooled down to room temperature and concentrated in vacuo. The crude product was diluted in EtOAc (100 mL) and extracted with 0.5N HCl. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated in vacuo to provide the title compound (1.53 g, 96% yield) as a solid.

reactant | (s)-[1-(3-formyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 6 mmol, 1.5 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)C=O)=O | C14H19NO3
reactant | hydroxylamine hydrochloride | 12 mmol, 2.5 mL, 833 mg | Cl.NO
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (S)-{1-[3-(Hydroxyimino-methyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 1.53 g, 96% yield | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)C=NO)=O | C14H20N2O3
